US08378095B2
To a stirred mixture of crude ethyl 2-amino-3-oxo-3-(thiophen-2-yl)propanoate hydrochloride (0.44 g), hydroxybenzotriazole monohydrate (0.417 g, 2.7 mmol) and 2,6-difluorobenzoic acid (0.431 g, 2.7 mmol) in DMF (5.5 mL) was added triethylamine (0.38 mL, 5.2 mmol) followed by 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride (0.575 g, 3.0 mmol). The resulting mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was partitioned between water and DCM. The organic phase was separated, washed with water, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using 20% EtOAc in hexane as eluant to afford ethyl 2-(2,6-difluorobenzamido)-3-oxo-3-(thiophen-2-yl)propanoate (0.123 g, 0.35 mmol, 20%). 1H NMR (CDCl3) 1.27 (3H, t), 4.28 (2H, m), 6.21 (1H, d), 7.00 (2H, t), 7.26 (1H, dd), 7.44 (2H, m), 7.83 (1H, dd), 8.20 (1H, dd). LCMS (1) Rt: 2.10 min; m/z (ES+) 354.

reactant | ethyl 2-amino-3-oxo-3-(thiophen-2-yl)propanoate hydrochloride | 0.44 g | Cl.NC(C(=O)OCC)C(C=1SC=CC1)=O
reactant | hydroxybenzotriazole monohydrate | 2.7 mmol, 0.417 g | O.OC1=CC=CC=2NN=NC21
reactant | 2,6-difluorobenzoic acid | 2.7 mmol, 0.431 g | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | triethylamine | 5.2 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride | 3.0 mmol, 0.575 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2,6-difluorobenzamido)-3-oxo-3-(thiophen-2-yl)propanoate | 0.35 mmol, 0.123 g, 20% | FC1=C(C(=O)NC(C(=O)OCC)C(C=2SC=CC2)=O)C(=CC=C1)F | C16H13F2NO4S
